US08486939B2
A stirred mixture of 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-1H-benzimidazole (0.183 g, 0.5 mmol) and 3-aminomethylpyridine (0.135 g, 1.25 mmol) in 10 mL dioxane was heated under gentle reflux for 5 min. After cooling, the mixture was diluted with water to give an oily solid, which was recrystallized from MeOH to give 0.13 g (59% yield) of 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-N-(3-pyridinylmethyl)-1,3,5-triazin-2-amine: mp 160-161° C.; 1H NMR (CDCl3) (rotamers) δ 8.61 (d, J=4.4 Hz, 1H), 8.42 and 8.32 (2d, J=7.6 and 8.4 Hz, 1H), 7.89-7.87 (m, 1H), 7.70 (dt, J=7.7, 1.65 Hz, 1H), 7.65 and 7.59 (2t, JHF=53.7 and 53.5 Hz, 1H), 7.43-7.37 (m, 2H), 7.34 (br t, J=8.7 Hz, 1H), 7.24 (br t, J=6.2 Hz, 1H), 6.55 and 6.41 (2 m, exchangeable with D2O, 1H), 4.82 and 4.78 (2 d, J=5.3 and 5.1 Hz, 2H), 3.88 (m, 4H), 3.78 (m, 4H); Anal. Calcd. for C21H20F2N8O: C, 57.5; H, 4.6; N, 25.6. Found: C, 57.7; H, 4.5; N, 25.7%.

reactant | 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-1H-benzimidazole | 0.5 mmol, 0.183 g | ClC1=NC(=NC(=N1)N1CCOCC1)N1C(=NC2=C1C=CC=C2)C(F)F | C15H13ClF2N6O
reactant | 3-aminomethylpyridine | 1.25 mmol, 0.135 g | NCC=1C=NC=CC1 | C6H8N2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-N-(3-pyridinylmethyl)-1,3,5-triazin-2-amine | 0.13 g, 59% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)NCC=1C=NC=CC1)C=CC=C2)F | C21H20F2N8O
